US07872033B2
N-(tert-butyl)-N-hexylideneamine
To t-butyl amine (5.25 mL, 50.0 mmol) and MgSO4 (2 g) in CH2Cl2 (10 mL) at room temperature was added slowly hexanal (6.0 mL, 50 mmol) under N2 at room temperature. The reaction became exothermic halfway through the addition so an ice bath was briefly used to control the reaction rate and avoid boiling off the solvent or amine. After the addition was complete, the reaction was stirred at room temperature for 2 h, filtered through celite under a stream of N2 and washed with 20 mL dry CH2Cl2. The solvent was evaporated to give a pale yellow liquid. 1H NMR (300 MHz, CDCl3) δ 0.87-0.91 (m, 3H), 1.17 (s, 9H), 1.25-1.35 (m, 4H), 1.45-1.55 (m, 2H), 2.23 (m, 2H), 7.59 (t, 1H).

reactant | t-butyl amine | 50.0 mmol, 5.25 mL | C(C)(C)(C)N | C4H11N
reactant | MgSO4 | 2 g | [O-]S(=O)(=O)[O-].[Mg+2]
reactant | hexanal | 50 mmol, 6.0 mL | C(CCCCC)=O | C6H12O
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | N-(tert-butyl)-N-hexylideneamine | C(C)(C)(C)N=CCCCCC | C10H21N
